US07973012B2
(2) Preparation of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-D-glucopyranose
To a tetrahydrofuran solution (80 mL) of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-(1,3-dioxolan-2-yl)-4-methylphenyl]-D-glucopyranose (10.6 g, 13.0 mmol) cooled in ice was added 6 M hydrochloric acid (80 mL), and the mixture was stirred for 14 hours at room temperature. To the reaction solution was added ice water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate aqueous solution and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (10.2 g, quant.) as a yellow oily compound.

reactant | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-(1,3-dioxolan-2-yl)-4-methylphenyl]-D-glucopyranose | 13.0 mmol, 10.6 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C1OCCO1)C)OCC1=CC=CC=C1 | C51H52O9
reactant | hydrochloric acid | 6 M, 80 mL | Cl | ClH
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-D-glucopyranose | 10.2 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C=O)C)OCC1=CC=CC=C1 | C49H48O8
